US04268514
1'-Methyl-4-methoxyxanthene-9-spiro-4'-piperidine hydrochloride (1.0 g.) in a solution of 45% w/v hydrobromic acid in glacial acetic acid (10 ml.) is heated under reflux for 2 hours. The solution is basified with sodium bicarbonate, diluted with water and extracted with chloroform. The chloroform extract is washed with water, dried over MgSO4, and evaporated to dryness. The residue is recrystallised from toluene-petroleum ether (b.p. 60°-80° C.) to give 1'-methyl-4-hydroxyxanthene-9-spiro-4'-piperidine, m.p. 171°-173° C.

reactant | 1'-Methyl-4-methoxyxanthene-9-spiro-4'-piperidine hydrochloride | 1.0 g | Cl.CN1CCC2(CC1)C1=CC=CC=C1OC=1C(=CC=CC12)OC
reactant | hydrobromic acid | Br | BrH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1'-methyl-4-hydroxyxanthene-9-spiro-4'-piperidine | CN1CCC2(CC1)C1=CC=CC=C1OC=1C(=CC=CC12)O | C18H19NO2
